US07312222B2
Step G. Preparation of (+/−)-2-[[4-[(4-fluorophenyl)methyl]-1-piperidinyl]methyl]-piperidine.
(+/−)-N-(t-butoxycarbonyl)-2-[[4-[(4-fluorophenyl)methyl]-1-piperidinyl]methyl]-piperidine (340 mg, 0.87 mmol) was dissolved in 4M HCl in dioxane (10 mL). The reaction was stirred for 1 h and then conc. in vacuo to a white solid. The solid was partioned between 10% NaOH and EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc. The organic layers were combined, dried over MgSO4, and conc. in vacuo to a white solid yielding 250 mg of product. MS (ESI) 291 (M+H).

reactant | (+/−)-N-(t-butoxycarbonyl)-2-[[4-[(4-fluorophenyl)methyl]-1-piperidinyl]methyl]-piperidine | 0.87 mmol, 340 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CN1CCC(CC1)CC1=CC=C(C=C1)F | C23H35FN2O2
reactant | NaOH | [OH-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (+/−)-2-[[4-[(4-fluorophenyl)methyl]-1-piperidinyl]methyl]-piperidine | 250 mg | FC1=CC=C(C=C1)CC1CCN(CC1)CC1NCCCC1 | C18H27FN2
